Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ woman with a history of type 1 diabetes,
autoimmune cirrhosis, hypertension, hyperlipidemia, RLE
amputation with multiple prior admissions for UTI, most recently
discharged on ___, who presents with 2 days of vomiting and
AMS.

Ms. ___ caregivers have noted that she has not returned to
her normal state of health since her prior hospitalization.
However, she worsened from her post-discharge baseline over the 
5
days prior to admission. She has had poor PO intake and appetite
for the past 5 days, and for the past 2 days has been more
lethargic and less conversant with 4 episodes of non-bloody
vomiting. She has 24 hour home health aide support and ___
services at home ___ manages her ___ noted no fevers at
home, but decreased urine output, and BPs in 170s-200s.

On her last admission, she presented with AMS and was found to
have a bilateral pyelonephritis and improved with treatment with
meropenem, which was switched to Bactrim when sensitivities
returned. She was discharged on PO Bactrim. On the prior
admission (discharged ___, she had been admitted for hepatic
encephalopathy and UTI. 

She has an permanent catheter that that was placed during her
admission in ___. She was seen by uro-gyn in ___ who
started prophylactic abx (Nitrofurantoin 100 mg PO). Per prior
notes, the catheter has remained in place per patient preference
because she has very limited mobility. 

Pertinent ED course (including exam, labs, imaging, consults,
treatment):
Upon presentation to the ED:
Vitals: 97.7, 73, 173/83, 99% RA
Labs notable for NA 125, K 5.8, Cr 3.4; WBC: 12.3, H/H 9.6/___.4.
Repeat whole blood K found to be 5.2
Glucose: 88
UA: + WBCs, + leuks

Neurology evaluated the patient in the ED and noted stable
anisocoria from prior admissions and left facial droop, but
concluded that her presentation is most consistent with 
delirium.
Neurology will follow. 

The patient received 1g ceftriaxone, glucagon, 1L NS before 
being
transferred to the floor. 
 
Upon arrival to the floor, the patient reports back pain and
fatigue, but denies other sources of discomfort. She notes that
her back pain is consistent with her usual back pain at home. 
She
is unable to say if she is better from prior. She denies chest
pain, shortness of breath, pain with urination. 

 
Past Medical History:
- H/o DVT 
- H/o stroke - L posterior limb of internal capsule and lacunar
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
- CKD 
- Cirrhosis (autoimmune presumably secondary to statin use)
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___.
Father - coronary artery disease with MI in her ___, died at 
age ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98.2, 175/74, 79, 14, 95% on RA
GENERAL: ill appearing older woman lying in bed, responds
appropriately (but intermittently) to questions with one word
sentences
ENT: no maxillary, supraclavicular, or cervical lymphadenopathy 
CV: RRR, no rubs, gallops, ___ systolic murmur loudest at RUSB
RESP: breathing unlabored, (anterior exam) lungs clear to
auscultation, minimal air movement 
GI: abdomen soft, tender diffusely but no peritoneal signs,
distended, tympanic to palpation, bowel sounds hypoactive but
present
GU: foley catheter in place draining light yellow urine
MSK: RLE above knee amputation; left foot tender to palpation
SKIN: ecchymoses on lower abdomen, hard nodule on medial left
calf
NEURO: R pupil 4mm and irregular, L pupil 2mm; extraocular eye
movements intact without nystagmus, left facial droop with 
facial
sensation/movement intact, shoulder shrug and head turn intact,
no tongue or uvula deviation, moves all four extremities
purposefully
PSYCH: flat affect

DISCHARGE PHYSICAL EXAM:
======================
VITALS: T 97.7 HR 63BP 170/67 RR 16O2 99% RA
GENERAL: NAD, sitting upright in bed
HEENT: anisocoria (left pupil 2mm, right 3mm reactive to light), 
EOMI, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, III/VI systolic murmur LUSB
RESP: poor inspiratory effort, clear in anterior fields
GI: soft, non-distended, non-tender, normoactive BS 
NEURO: awake, alert, attentive, oriented x3, residual LLE 
weakness
EXT: right AKA, LLE warm, well perfused, trace pedal edema, 
tender, left hand contracture
 
Pertinent Results:
ADMISSION LABS
=============

___ 04:15PM   WBC-12.3*# RBC-3.20* HGB-9.6* HCT-29.4* 
MCV-92 MCH-30.0 MCHC-32.7 RDW-14.8 RDWSD-49.9*
___ 04:15PM   NEUTS-76.0* LYMPHS-10.4* MONOS-6.9 EOS-5.4 
BASOS-0.6 IM ___ AbsNeut-9.32* AbsLymp-1.28 AbsMono-0.84* 
AbsEos-0.66* AbsBaso-0.07
___ 04:15PM   PLT COUNT-390#
___ 04:15PM   ___ PTT-29.3 ___
___ 04:15PM   GLUCOSE-88 UREA N-43* CREAT-3.4*# SODIUM-125* 
POTASSIUM-5.8* CHLORIDE-92* TOTAL CO2-21* ANION GAP-17
___ 04:15PM   ALT(SGPT)-16 AST(SGOT)-15 ALK PHOS-225* TOT 
BILI-0.2
___ 04:15PM   LIPASE-5
___ 04:30PM   LACTATE-1.5 K+-5.2*
___ 04:15PM   cTropnT-0.05*
___ 01:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:15PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 01:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100* 
GLUCOSE-TR* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 01:15PM URINE  RBC-128* WBC-91* BACTERIA-NONE 
YEAST-MANY* EPI-0

PERTINENT LABS:
=============
___ 10:20AM BLOOD WBC-5.7 RBC-2.53* Hgb-7.5* Hct-23.9* 
MCV-95 MCH-29.6 MCHC-31.4* RDW-15.3 RDWSD-53.0* Plt ___
___ 10:20AM BLOOD Glucose-206* UreaN-33* Creat-3.1* Na-129* 
K-4.7 Cl-98 HCO3-19* AnGap-17
___ 09:15AM BLOOD ALT-13 AST-13 AlkPhos-188* TotBili-0.2
___ 10:20AM BLOOD Calcium-10.1 Phos-4.3 Mg-2.4
___ 10:00AM BLOOD PTH-9*

IMAGING
=======
ABDOMINAL ULTRASOUND (___)
IMPRESSION: Limited imaging of the abdomen demonstrate cirrhotic 
liver, small volume
ascites, and small right pleural effusion.

ABDOMINAL X-RAY (___)
IMPRESSION: Dilated colon which is filled with a significant 
amount of air and stool.  No
small-bowel obstruction.

CT HEAD W/O CONTRAST (___) 
IMPRESSION: No acute intracranial process.
 
Brief Hospital Course:
___ female with h/o cirrhosis d/t autoimmune hepatitis, 
DM1, CKD, and multiple admissions for recurrent UTI admitted for 
AMS thought to be secondary to long-acting narcotics potentiated 
by poor oral intake and subsequent ___.

#) Delirium, hypoactive: suspect AMS was primarily due to 
methadone overdose in the setting ___ and impaired narcotic 
clearance.  Picture was likely multifactorial; that is, 
complicated by multiple electrolyte abnormalities, hepatic 
encephalopathy, and constipation.  Patient was initially treated 
with empiric Zosyn for possible UTI, but this was ultimately 
discontinued, as sepsis investigations were unrevealing. Patient 
had a small amount of ascites, but her exam remained 
inconsistent with SBP.  Head CT did not demonstrated acute 
intracranial pathology. She returned to baseline mental status 
by discharge.

#) ___ on CKD: Cr 3.4 upon admission (baseline 1.4-1.8). Injury 
was thought to be pre-renal in nature, given suboptimal oral 
intake. Urine output and creatinine improved with fluids, albeit 
slowly, suggesting concomitant ATN or intra-renal injury. 
Further investigation was deemed inconsistent with new goals of 
care.

#) Constipation, opioid-induced: KUB demonstrated significant 
amount of stool upon admission. Home lactulose was titrated to 
___ bowel movements per day. Resolution seemingly paralleled 
return to baseline mentation.

#) DM1: patient had one asymptomatic episode of ___ ___ due to 
poor oral intake and insulin stacking in the setting of ___. 
Home insulin glargine and ISS were accordingly adjusted. Home 
basal regimen was cautiously reintroduced.

#) Hypercalcemia: improved with fluids and restoration of kidney 
function. Probably due to immobility. PTH appropriately low. CXR 
not suggestive of tumor and consequent hypercalcemia of 
malignancy. No protein gap. Further investigation for multiple 
myeloma was deemed inconsistent with new goals of care.

#) Hyponatremia: improved with judicious fluids, suggesting 
hypovolemic hyponatremia. Probable component of poor solute 
intake too. Urine studies equivocal. 

#) Hyperkalemia: minor; no ECG changes. Due to ___. Improved 
with fluids and restoration of kidney function.

#) HTN: intermittently hypertensive to sBP 170; asymptomatic. 
Home carvedilol was increased to 12.5 QAM, 12.5 QPM with 
adequate effect. Home clonidine, amlodipine, hydralazine, Imdur 
were continued. Home lisinopril was held in the setting of ___.

#) Goals of care: after discussion with patient (when coherent), 
husband (proxy), palliative care, and SW, it was determined that 
frequent re-admissions and generalized aversion to 
hospitalization do not align with her preferences. She 
ultimately prefers to remain at home with adequate analgesia for 
her chronic left leg/lumbar back pain. Code status amended to 
DNR/DNI.

CHRONIC/STABLE PROBLEMS:
#) Back pain/left leg pain: patient previously on methadone 5 mg 
TID, which was  discontinued by PCP for long QT. It was learned 
that patient subsequently obtained methadone via sharing at 
home. Palliative care recommended low-dose opioid as needed for 
pain management. Patient did not have evidence of opioid 
withdrawal.

#) Normocytic, normochromic anemia: suspect patient arrived 
hemoconcentrated from poor oral intake. Subsequent decline was 
thus due to hemodilution after volume expansion.
.
.
Transitional Issues
=============
[]Home with hospice services
[]Consider further discontinuation of medicines to align with 
goals of care
.
.
.
Time in care
=============
[x]Greater than 30 minutes in discharge-related activities 
including patient counseling, patient education and care 
coordination on the day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
5. Ascorbic Acid ___ mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Calcitriol 0.25 mcg PO DAILY 
8. Carvedilol 6.25 mg PO QAM 
9. Carvedilol 12.5 mg PO QPM 
10. CloNIDine 0.2 mg PO BID 
11. Clopidogrel 75 mg PO DAILY 
12. Cyanocobalamin 1000 mcg PO DAILY 
13. Ferrous GLUCONATE 324 mg PO DAILY 
14. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
15. HydrALAZINE 100 mg PO Q8H 
16. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
17. Levothyroxine Sodium 88 mcg PO DAILY 
18. Lidocaine 5% Ointment 1 Appl TP BID 
19. Lisinopril 30 mg PO DAILY 
20. Multivitamins 1 TAB PO DAILY 
21. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
22. Pantoprazole 40 mg PO Q24H 
23. Polyethylene Glycol 17 g PO DAILY constipation 
24. Tiotropium Bromide 1 CAP IH DAILY 
25. BuPROPion XL (Once Daily) 150 mg PO DAILY 
26. Calcium Carbonate 500 mg PO DAILY 
27. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
28. Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash 
29. Rosuvastatin Calcium 10 mg PO QPM 
30. travoprost 0.004 % ophthalmic QPM 
31. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
32. Nitrofurantoin (Macrodantin) 100 mg PO DAILY 
33. Metoclopramide 5 mg PO QIDACHS 
34. Lactulose 30 mL PO TID constipation 
35. Glargine 6 Units Breakfast
Glargine 8 Units Bedtime
36. NovoLOG (insulin aspart) 100 unit/mL subcutaneous per 
sliding scale with meals 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*12 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H  
5.  Carvedilol 12.5 mg PO BID  
6.  Glargine 2 Units Breakfast
Glargine 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
7.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
8.  amLODIPine 10 mg PO DAILY  
9.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
10.  Aspirin 81 mg PO DAILY  
11.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
12.  CloNIDine 0.2 mg PO BID  
13.  Clopidogrel 75 mg PO DAILY  
14.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
15.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
16.  HydrALAZINE 100 mg PO Q8H  
17.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
18.  Lactulose 30 mL PO TID constipation  
19.  Levothyroxine Sodium 88 mcg PO DAILY  
20.  Lidocaine 5% Ointment 1 Appl TP BID  
21.  Metoclopramide 5 mg PO QIDACHS  
22.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
23.  Nitrofurantoin (Macrodantin) 100 mg PO DAILY  
24.  NovoLOG (insulin aspart) 100 unit/mL subcutaneous PER 
SLIDING SCALE WITH MEALS  
25.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
26.  Pantoprazole 40 mg PO Q24H  
27.  Polyethylene Glycol 17 g PO DAILY constipation  
28.  Tiotropium Bromide 1 CAP IH DAILY  
29.  travoprost 0.004 % ophthalmic QPM  
30.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
You were admitted for confusion.

WHAT HAPPENED IN THE HOSPITAL?
You were given fluids, antibiotics, and medicines to help you 
move your bowels. After discussion with you and your husband, it 
was understood you wanted to remain at home after leaving the 
hospital. You met with our palliative care doctors and decided 
to go home with hospice care to help maximize your comfort at 
home.

WHAT SHOULD YOU DO AT HOME?
-Please let your hospice nurse know if you have pain or any 
other concern. 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___